US05721248
2-Iodo-3-[(2-phenyl-2-propenyl)oxy]benzaldehyde
6.72 g (0.28 mmol) of sodium hydride are dissolved in 660 ml of ether and 120 ml of dimethylformamide under argon, and 64.1 g (0.26 mol) of 3-hydroxy-2-iodobenzaldehyde in 65 ml of ether are slowly added. After the mixture has been stirred at room temperature for 15 minutes, 61 g (0.28 mol) of 3-bromo-2-phenyl-1-propene, dissolved in 60 ml of ether, are added dropwise and the mixture is stirred overnight.

reactant | sodium hydride | 0.28 mmol, 6.72 g | [H-].[Na+]
reactant | dimethylformamide | 120 ml | CN(C=O)C | C3H7NO
reactant | 3-hydroxy-2-iodobenzaldehyde | 0.26 mol, 64.1 g | OC=1C(=C(C=O)C=CC1)I | C7H5IO2
reactant | 3-bromo-2-phenyl-1-propene | 0.28 mol, 61 g | BrCC(=C)C1=CC=CC=C1 | C9H9Br
solvent | ether | 660 ml | CCOCC | C4H10O
solvent | ether | 65 ml | CCOCC | C4H10O
solvent | ether | 60 ml | CCOCC | C4H10O
product | 2-Iodo-3-[(2-phenyl-2-propenyl)oxy]benzaldehyde | IC1=C(C=O)C=CC=C1OCC(=C)C1=CC=CC=C1 | C16H13IO2
